US05175157
2-[(N-(3-(Pyrid-3-yl)-propyl)-pyrrolidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride
Prepared from 6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 3-chloromethyl-N-[3-(pyrid-3-yl)-propyl]-pyrrolidine analogously to Example 2.

reactant | 6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | C1OC=2C=C3CCNC(C3=CC2O1)=O | C10H9NO3
reactant | 3-chloromethyl-N-[3-(pyrid-3-yl)-propyl]-pyrrolidine | ClCC1CN(CC1)CCCC=1C=NC=CC1 | C13H19ClN2
product | 2-[(N-(3-(Pyrid-3-yl)-propyl)-pyrrolidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride | Cl.Cl.N1=CC(=CC=C1)CCCN1CC(CC1)CN1C(C2=CC3=C(C=C2CC1)OCO3)=O | InChI=1S/C23H27N3O3.2ClH/c27-23-20-12-22-21(28-16-29-22)11-19(20)6-10-26(23)15-18-5-9-25(14-18)8-2-4-17-3-1-7-24-13-17;;/h1,3,7,11-13,18H,2,4-6,8-10,14-16H2;2*1H
